US07968570B2
A mixture of 1-(4-chlorophenyl)-ethylamine (117 mg (0.75 mmol), 2-bromomethyl-benzoic acid methyl ester (172 mg, 0.75 mmol), and K2CO3 (207 mg, 1.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using a gradient of hexanes to ethyl acetate afforded 38 mg of 2-[1-(4-chlorophenyl)-ethyl]-2,3-dihydroisoindol-1-one, as the racemic mixture. Chromatography (HPLC) of this material through ChrialCel OD (250×20 mm i.d., 10 μm) using 5% isopropanol in hexanes afforded 11.6 mg of R-2-[1-(4-chlorophenyl)-ethyl]-2,3-dihydro-isoindol-1-one and 8.3 mg of S-2-[1-(4-chlorophenyl)-ethyl]-2,3-dihydro-isoindol-1-one. GC/MS for S-2-[1-(4-chlorophenyl)-ethyl]-2,3-dihydroisoindol-1-one gave: m/z (rel.int.) 274 (M+, 9), 272 (M+, 56), 258 (26), 256 (57), 160 (20), 138 (32), 119 (100), 103 (50), 91 (65), and 77 (61).

reactant | 1-(4-chlorophenyl)-ethylamine | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | 2-bromomethyl-benzoic acid methyl ester | 0.75 mmol, 172 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(4-chlorophenyl)-ethyl]-2,3-dihydroisoindol-1-one | 38 mg | ClC1=CC=C(C=C1)C(C)N1C(C2=CC=CC=C2C1)=O | C16H14ClNO
